US07834028B2
LAH (250 mg, 6.6 mmol) was suspended in THF (18 ml) in an inert atmosphere and cooled to 0° C. followed by the dropwise addition of a solution of (2-benzyl-5-methyl-2H-pyrazol-3-yl)-acetic acid methyl ester (1.07 g, 4.4 mmol) in THF (4 ml). Stirring was continued for 2 h at rt. At 0° C., water (0.25 ml), 15% aqueous NaOH-solution (0.25 ml) and again water (0.75 ml) were subsequently added. Stirring was continued for several hours followed by the addition of sodium sulfate and filtration. The filtrate was concentrated under reduced pressure to give 850 mg (89%) of 2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethanol directly used in the next step without further purification. LC-MS: tR=0.66 min; [M+H]+=217.15.

reactant | LAH | 6.6 mmol, 250 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (2-benzyl-5-methyl-2H-pyrazol-3-yl)-acetic acid methyl ester | 4.4 mmol, 1.07 g | COC(CC=1N(N=C(C1)C)CC1=CC=CC=C1)=O | C14H16N2O2
reactant | NaOH | 0.25 ml | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 0.75 ml | O | H2O
solvent | water | 0.25 ml | O | H2O
product | 2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethanol | 850 mg, 89% | C(C1=CC=CC=C1)N1N=C(C=C1CCO)C | C13H16N2O
